US04228102
500 g (5 mols) of methyl methacrylate, 325 g (5.5 mols) of isopropylamine, and 12.4 g (0.13 mol) of isopropylamine hydrochloride were reacted in the presence of 0.03 mol of ferric acetylacetonate for 21/2 hours in a steel autoclave at 220° C. The pressure increased to a maximum of 18 atmospheres. The methyl methacrylate reacted to the extent of 80% and gave 442 g of N-isopropylmethacrylic acid amide (corresponding to a 68% yield referred to the methyl methacrylate used).

reactant | methyl methacrylate | 5 mols, 500 g | C(C(=C)C)(=O)OC | C5H8O2
reactant | isopropylamine | 5.5 mols, 325 g | C(C)(C)N | C3H9N
catalyst | isopropylamine hydrochloride | 0.13 mol, 12.4 g | Cl.C(C)(C)N
product | N-isopropylmethacrylic acid amide | 442 g, 68% yield | C(C)(C)NC(C(=C)C)=O | C7H13NO
